US07456164B2
Intermediate 50: 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide
4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile (2 g, 6.4 mmol), diethyl dithiophosphate (15 mL, 8.9 mmol), and water (1.5 mL) were combined and stirred at ambient temperature for 5 hours, 55° C. for 2 hours then 70° C. for 2 hours. The reaction mixture was diluted with dichloromethane (100 mL) and basified to pH 8 with a saturated solution of NaHCO3 in water, and solid NaHCO3. The layers were separated, and further dichloromethane (100 mL) was used to extract the product. The combined organics were dried using Na2SO4, filtered and concentrated in vacuo to leave a yellow oil. The compound was purified with column chromatography on 50 g of silica, eluting with dichloromethane:methanol:ammonia (96:4:0.4) to dichloromethane:methanol:ammonia (90:10:1) to give a clear oil. The clear oil was dissolved in ethyl acetate (150 mL) and washed with 10% Na2CO3 solution. The organic layer was dried using Na2SO4, filtered and concentrated in vacuo to give the title compound as a white solid (0.61 g, 28%).

reactant | 4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-carbonitrile | 6.4 mmol, 2 g | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | diethyl dithiophosphate | 8.9 mmol, 15 mL | P(=S)(SCC)(OCC)[O-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1.5 mL | O | H2O
product | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide | 0.61 g, 28% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C19H28N2O2S
